US07507740B2
(i) Production of 4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)butyl acetate
To a suspension of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (0.768 g) in N,N-dimethylformamide (10 mL) was added cesium carbonate (2.01 g) under ice-cooling, and the reaction mixture was stirred while warming to room temperature for 15 min. 4-Bromobutyl acetate (1.26 g) was added dropwise to the reaction mixture, and the mixture was stirred at room temperature for 30 hrs. The reaction mixture was poured into 5% aqueous sodium hydrogen carbonate solution (80 mL), and extracted with ethyl acetate (100 mL×3). The organic layer washed successively with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel chromatography (eluent:hexane/ethyl acetate=95/5→0/100). The object fraction was concentrated under reduced pressure and dried to give the title compound (1.084 g) as a colorless transparent oil.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 0.768 g | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | cesium carbonate | 2.01 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-Bromobutyl acetate | 1.26 g | C(C)(=O)OCCCCBr | C6H11BrO2
reactant | sodium hydrogen carbonate | 80 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)butyl acetate | 1.084 g | C(C)(=O)OCCCCN1C=CC=2N=CN=C(C21)Cl | C12H14ClN3O2
